US04061656
2.2 G. of 2-hydroxymethyl-3,4,5-trimethyl-thiophene were dissolved in 25 ml. of acetonitrile and 4.6 g. of triphenylphosphonium bromide were added. The resulting reaction mixture was heated to 50° C. for 3 hours. After evaporation of the solvent, the residue which formed was diluted with ethyl acetate, heated briefly and filtered. The crystalline (3,4,5-trimethyl-2-thenyl)-triphenyl phosphonium bromide obtained was dried at 50° C. under high vacuum and had m.p. 208°-215° C.

reactant | 2-hydroxymethyl-3,4,5-trimethyl-thiophene | OCC=1SC(=C(C1C)C)C | C8H12OS
reactant | acetonitrile | C(C)#N | C2H3N
reactant | triphenylphosphonium bromide | [Br-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3,4,5-trimethyl-2-thenyl)-triphenyl phosphonium bromide | [Br-].CC1=C(SC(=C1C)C)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C26H26PS.BrH/c1-20-21(2)26(28-22(20)3)19-27(23-13-7-4-8-14-23,24-15-9-5-10-16-24)25-17-11-6-12-18-25;/h4-18H,19H2,1-3H3;1H/q+1;/p-1
